Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1]([N:2]1[C@H:3]2[CH2:4][CH2:5][c:6]3[c:7]([O:8][CH3:9])[cH:10][cH:11][cH:12][c:13]3[C@H:14]2[CH2:15][CH2:16]1)[CH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22]1>>[CH2:1]([N:2]1[C@H:3]2[CH2:4][CH2:5][c:6]3[c:7]([O:8][CH3:9])[cH:10][cH:11][cH:12][c:13]3[C@H:14]2[CH2:15][CH2:16]1)[CH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22]1,[O:101]=[C:1]([N:2]1[C@H:3]2[CH2:4][CH2:5][c:6]3[c:7]([O:8][CH3:9])[cH:10][cH:11][cH:12][c:13]3[C@H:14]2[CH2:15][CH2:16]1)[CH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22]1.[AlH4-:301].[AlH4-:302]>>[CH2:1]([N:2]1[C@H:3]2[CH2:4][CH2:5][c:6]3[c:7]([O:8][CH3:9])[cH:10][cH:11][cH:12][c:13]3[C@H:14]2[CH2:15][CH2:16]1)[CH2:17][CH:18]1[CH2:19][CH2:20][CH2:21][CH2:22]1,amide_reduction,"[([301, 301.1], 1), ([1, 101], 301), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][n:7][c:8](-[c:9]2[n:10][n:11]([CH2:12][c:13]3[c:14]([F:15])[cH:16][c:17]([O:18][CH2:19][CH3:20])[cH:21][c:22]3[F:23])[c:24]3[c:25]2[cH:26][cH:27][cH:28][cH:29]3)[n:30][c:31]1[NH:32][c:33]1[cH:34][cH:35][n:36][cH:37][cH:38]1>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][n:7][c:8](-[c:9]2[n:10][n:11]([CH2:12][c:13]3[c:14]([F:15])[cH:16][c:17]([O:18][CH2:19][CH3:20])[cH:21][c:22]3[F:23])[c:24]3[c:25]2[cH:26][cH:27][cH:28][cH:29]3)[n:30][c:31]1[NH:32][c:33]1[cH:34][cH:35][n:36][cH:37][cH:38]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][n:7][c:8](-[c:9]2[n:10][n:11]([CH2:12][c:13]3[c:14]([F:15])[cH:16][c:17]([O:18][CH2:19][CH3:20])[cH:21][c:22]3[F:23])[c:24]3[c:25]2[cH:26][cH:27][cH:28][cH:29]3)[n:30][c:31]1[NH:32][c:33]1[cH:34][cH:35][n:36][cH:37][cH:38]1.[H+:301]>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][n:7][c:8](-[c:9]2[n:10][n:11]([CH2:12][c:13]3[c:14]([F:15])[cH:16][c:17]([O:18][CH2:19][CH3:20])[cH:21][c:22]3[F:23])[c:24]3[c:25]2[cH:26][cH:27][cH:28][cH:29]3)[n:30][c:31]1[NH:32][c:33]1[cH:34][cH:35][n:36][cH:37][cH:38]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:32][CH2:31][CH:4]([CH2:5][CH:6]([NH:7][C:8]([C@H:9]2[C@@H:10]([NH:11][C:12]([c:13]3[n:14]([CH3:15])[c:16]4[c:17]([cH:18]3)[cH:19][cH:20][cH:21][cH:22]4)=[O:23])[CH2:24][CH2:25][CH2:26][CH2:27]2)=[O:28])[C:29]#[N:30])[CH2:3][CH2:2]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([CH2:5][CH:6]([NH:7][C:8]([C@H:9]2[C@@H:10]([NH:11][C:12]([c:13]3[n:14]([CH3:15])[c:16]4[c:17]([cH:18]3)[cH:19][cH:20][cH:21][cH:22]4)=[O:23])[CH2:24][CH2:25][CH2:26][CH2:27]2)=[O:28])[C:29]#[N:30])[CH2:31][CH2:32]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([CH2:5][CH:6]([NH:7][C:8]([C@H:9]2[C@@H:10]([NH:11][C:12]([c:13]3[n:14]([CH3:15])[c:16]4[c:17]([cH:18]3)[cH:19][cH:20][cH:21][cH:22]4)=[O:23])[CH2:24][CH2:25][CH2:26][CH2:27]2)=[O:28])[C:29]#[N:30])[CH2:31][CH2:32]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([CH2:5][CH:6]([NH:7][C:8]([C@H:9]2[C@@H:10]([NH:11][C:12]([c:13]3[n:14]([CH3:15])[c:16]4[c:17]([cH:18]3)[cH:19][cH:20][cH:21][cH:22]4)=[O:23])[CH2:24][CH2:25][CH2:26][CH2:27]2)=[O:28])[C:29]#[N:30])[CH2:31][CH2:32]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
